US04481142
Preparation of 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
A solution of 1.0 g (0.00294 mol) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-ol in 5 ml of phosphorous oxychloride was heated on the steam bath for 4 hr, and evaporated to dryness. The solid was crystallized from dichloromethane/ether, and the precipitate was partitioned between 50 ml of dichloromethane and 40 ml of saturated solution of sodium bicarbonate. The organic layer was dried, evaporated and crystallized from ether. Recrystallization from dichloromethane/ether gave the end product as off-white prisms, mp 157°-160°.

reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-ol | 0.00294 mol, 1.0 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)O)C=C1 | C18H11ClFN3O
reactant | phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H10Cl2FN3
